US05698590
(13E)-(11α, 15S)-9-oxo-11, 15-bis(tetrahydropyran-2-yloxy)prost-13-enoic acid pyridin-2-ylthio ester
To a solution of (13E)-(11α, 15S)-9-oxo-11, 15-bis(tetrahydropyran-2yloxy)prost-13-enoic acid (808 mg) in acetonitrile (15 ml) was added triphenylphosphine (532 mg) and 2,2'-dipyridyl disulfide (448 mg), successively, and the solution was refluxed for 1 hour. The solvent was distilled off and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1) to give the title compound (743 mg) having the following physical data.

reactant | (13E)-(11α, 15S)-9-oxo-11, 15-bis(tetrahydropyran-2yloxy)prost-13-enoic acid | 808 mg | O=C1[C@H](CCCCCCC(=O)O)[C@H]([C@@H](C1)OC1OCCCC1)\C=C\[C@H](CCCCC)OC1OCCCC1 | C30H50O7
reactant | triphenylphosphine | 532 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2'-dipyridyl disulfide | 448 mg | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (13E)-(11α, 15S)-9-oxo-11, 15-bis(tetrahydropyran-2-yloxy)prost-13-enoic acid pyridin-2-ylthio ester | 743 mg | N1=C(C=CC=C1)SOC(CCCCCC[C@H]1C(C[C@H]([C@@H]1\C=C\[C@H](CCCCC)OC1OCCCC1)OC1OCCCC1)=O)=O | C35H53NO7S
